US04886810
In the same manner as described in Example 16 (1), a mixture of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, trans-3-aminomethyl-4-methylpyrrolidine, and dimethylformamide was stirred at room temperature for 24 hours to give 5-amino-7-(trans-3-aminomethyl-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro4-oxoquinoline-3-carboxylic acid, which was recrystallized from ethanol, m.p. 223°-225° C.

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | trans-3-aminomethyl-4-methylpyrrolidine | NC[C@@H]1CNC[C@H]1C | C6H14N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-amino-7-(trans-3-aminomethyl-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro4-oxoquinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)N1C[C@H]([C@@H](C1)C)CN)F)C1CC1)C(=O)O)=O | C19H22F2N4O3
